US05594000
3-Amino-8-methyl-1-oxa-8-azaspiro[4.5]decane maleate
8-Ethoxycarbonyl-1-oxa-8-azaspiro[4.5]decan-3-one oxime (15.2 g, 0.063 mol) was dissolved in dry THF (400 ml) and added dropwise to a stirred solution of Vitride (71 ml, 0.25 mol) in THF (400 ml) cooled with an ice bath. After stirring the reaction overnight at room temperature additonal Vitride (35 ml) in THF (200 ml) was added and stirring was continued for 24 hours. Decomposition of the complex and excess Vitride with successive addition of water, 15% NaOHaq and water was carried out. The THF was filtered and evaporated to give the crude amine which was purified by chromatography on silica gel and elution with ammoniated 2-20% MeOH/CHCl3. The crude amine was dissolved in ethyl acetate and maleic acid was added. The precipitated salt was recrystallized from isopropanol/ethyl acetate to give the title product.

reactant | 8-Ethoxycarbonyl-1-oxa-8-azaspiro[4.5]decan-3-one oxime | 0.063 mol, 15.2 g | C(C)OC(=O)N1CCC2(CC(CO2)=NO)CC1 | C11H18N2O4
reactant | Vitride | 0.25 mol, 71 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | Vitride | 35 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | water | O | H2O
reactant | THF | 400 ml | C1CCOC1 | C4H8O
reactant | THF | 400 ml | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-Amino-8-methyl-1-oxa-8-azaspiro[4.5]decane maleate | C(\C=C/C(=O)O)(=O)O.NC1COC2(C1)CCN(CC2)C | InChI=1S/C9H18N2O.C4H4O4/c1-11-4-2-9(3-5-11)6-8(10)7-12-9;5-3(6)1-2-4(7)8/h8H,2-7,10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
